US04005208
A mixture of 3-amino-1-carbethoxypiperidine and 9-acetoxyxanthene in dry toluene is refluxed by the procedure of Example 1 to give N-(N-ethoxycarbonyl-3-piperidinyl)-9-xanthenylamine.

reactant | 3-amino-1-carbethoxypiperidine | NC1CN(CCC1)C(=O)OCC | C8H16N2O2
reactant | 9-acetoxyxanthene | C(C)(=O)OC1C2=CC=CC=C2OC=2C=CC=CC12 | C15H12O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(N-ethoxycarbonyl-3-piperidinyl)-9-xanthenylamine | C(C)OC(=O)N1CC(CCC1)NC1C2=CC=CC=C2OC=2C=CC=CC12 | C21H24N2O3
